US04661505
B. Preparation of methyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-2,2-dimethylhexanoate
Following the procedure of Example 15, 2.5 g. of methyl 6-bromo-2,2-dimethylhexanoate, 1.46 g. of potassium carbonate, a catalytic amount of potassium iodide, and 2.14 g. of 2,4-dihydroxy-3-propylacetophenone were reacted to give 2.96 g. of the title product as a brown oil. IR, NMR.

reactant | methyl 6-bromo-2,2-dimethylhexanoate | BrCCCCC(C(=O)OC)(C)C | C9H17BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 2,4-dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
product | methyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-2,2-dimethylhexanoate | C(C)(=O)C1=C(C(=C(OCCCCC(C(=O)OC)(C)C)C=C1)CCC)O | C20H30O5
